US08431604B2
N-[4-(1-acetylpyrrolidine-2-yl)-1,3-thiazole-2-yl]N′-(2,6-dimethoxybenzyl)guanidine
A mixture of 100 mg (0.25 mmol) N-(2,6-dimethoxybenzyl)-N′-(4-pyrrolidine-2-yl-1,3-thiazole-2-yl)guanidine hydrochloride, Example 147, 0.021 ml acetyl chloride and 0.04 ml pyridine in 10 ml THF were stirred for 1 hour at 5° C. and then 4 hours at room temperature. Chromatography of the crude product on RP-silica gel (Chromabond column, acetonitrile/water+0.1% glacial acetic acid; 0-100%) yielded 33 mg of the desired product; ESI-MS [M+H+]=404.15.

reactant | N-(2,6-dimethoxybenzyl)-N′-(4-pyrrolidine-2-yl-1,3-thiazole-2-yl)guanidine hydrochloride | 0.25 mmol, 100 mg | Cl.COC1=C(CNC(=N)NC=2SC=C(N2)C2NCCC2)C(=CC=C1)OC
reactant | acetyl chloride | 0.021 ml | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 0.04 ml | N1=CC=CC=C1 | C5H5N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-[4-(1-acetylpyrrolidine-2-yl)-1,3-thiazole-2-yl]N′-(2,6-dimethoxybenzyl)guanidine | 33 mg | C(C)(=O)N1C(CCC1)C=1N=C(SC1)NC(=N)NCC1=C(C=CC=C1OC)OC | C19H25N5O3S
